US06288061B1
5-(4-Methylphenyl)-2-phenylimidazole-4-carboxylic acid (0.5 g) and 2-amino-4-phenylthiazole (0.55 g) were reacted and treated in the same manner as in Example 1 to give 5-(4-methylphenyl)-2-phenyl-N-(4-phenylthiazol-2-yl)imidazole-4-carboxamide (0.06 g), melting point 274-276° C.

reactant | 5-(4-Methylphenyl)-2-phenylimidazole-4-carboxylic acid | 0.5 g | CC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=CC=C1)C(=O)O | C17H14N2O2
reactant | 2-amino-4-phenylthiazole | 0.55 g | NC=1SC=C(N1)C1=CC=CC=C1 | C9H8N2S
product | 5-(4-methylphenyl)-2-phenyl-N-(4-phenylthiazol-2-yl)imidazole-4-carboxamide | 0.06 g | CC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=CC=C1)C(=O)NC=1SC=C(N1)C1=CC=CC=C1 | C26H20N4OS
